US07598243B2
To a solution of methyl [1-((3S)-3-isopropyl-3-{[3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}cyclopentyl)piperidin-4-yl]acetate (470 mgs, 0.92 mmol) in methanol (5 ml) was added 2N Lithium Hydroxide solution (1.8 ml, 3.7 mmol), the reaction was then stirred overnight at room temperature. The reaction was neutralized to pH=5 using 3N HCl. The crude was purified on reverse phase HPLC using 5%-100% ACN/H2O to yield [1-((3S)-3-{[3-(1,1-difluoroethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}-3-isopropylcyclopentyl)piperidin-4-yl]acetic acid (320 mgs, 91%), LC-MS 482 (M++1).

reactant | methyl [1-((3S)-3-isopropyl-3-{[3-(trifluoromethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}cyclopentyl)piperidin-4-yl]acetate | 0.92 mmol, 470 mgs | C(C)(C)[C@]1(CC(CC1)N1CCC(CC1)CC(=O)OC)C(=O)N1CC=2C=C(C=NC2CC1)C(F)(F)F | C26H36F3N3O3
reactant | Lithium Hydroxide | 3.7 mmol, 2N, 1.8 ml | [OH-].[Li+]
reactant | HCl | 3N | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
product | [1-((3S)-3-{[3-(1,1-difluoroethyl)-7,8-dihydro-1,6-naphthyridin-6(5H)-yl]carbonyl}-3-isopropylcyclopentyl)piperidin-4-yl]acetic acid | 320 mgs, 91% | FC(C)(F)C=1C=NC=2CCN(CC2C1)C(=O)[C@@]1(CC(CC1)N1CCC(CC1)CC(=O)O)C(C)C | C26H37F2N3O3
